US07777047B2
N-{2-[5-(2-hydroxy-2-methylpropyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide
To a solution of ethyl (2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate (0.204 g) in absolute tetrahydrofuran (10 mL) was added a 1.0M tetrahydrofuran solution (4.4 mL) of methylmagnesium bromide, and the mixture was stirred at room temperature for 2 hr. Saturated aqueous ammonium chloride solution was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=30:70-80:20), and recrystallized from hexane-ethyl acetate to give the title compound (0.142 g, yield 72%) as colorless crystals. melting point 156-158° C.

reactant | ethyl (2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate | 0.204 g | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)OCC)S(=O)(=O)C=1SC=CC1 | C20H21N3O4S3
reactant | methylmagnesium bromide | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 1.0M, 4.4 mL | O1CCCC1 | C4H8O
product | N-{2-[5-(2-hydroxy-2-methylpropyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 0.142 g, yield 72% | OC(CC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)(C)C | C20H23N3O3S3
